US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(3-chloro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXL)
In a similar fashion to Compound CXXV, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (75.00 mg, 0.2553 mmol), 3-Chlorobenzaldehyde (39.5 mg, 0.281 mmol), and Ammonium acetate (39.4 mg, 0.511 mmol) were reacted to produce 31.23 mg (30%) of the title compound. (300 MHz, DMSO-d6) 13.42 (s, 1H), 8.19 (s, 1H), 8.10 (d, J=8 Hz, 1H), 7.98 (s, 1H), 7.78 (s, 1H), 7.62-7.53 (m, 2H), 7.32 (d, J=9 Hz, 1H), 7.25 (s, 1H), 6.39 (s, 2H), 5.18 (t, J=17 Hz, 9 Hz, 1H), 2.87 (s, 1H), 2.91 (s, 1H), 2.81 (d, J=8 Hz, 1H), 2.63 (d, J=8 Hz, 1H), 2.23 (d, J=8 Hz, 1H), 1.38 (d, J=8 Hz, 1H). MS=414 (M+H), HPLC: 2.73 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.2553 mmol, 75.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 3-Chlorobenzaldehyde | 0.281 mmol, 39.5 mg | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | Ammonium acetate | 0.511 mmol, 39.4 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(3-chloro-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 31.23 mg, 30% | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC(=CC=C2)Cl)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C20H17Cl2N5O
